US07741327B2
In a round bottom flask was placed (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-4-methylsulfanyl-butyramide (118 mg, 0.23 mmol), methanol (5 mL) and p-toluenesulfonic acid monohydrate (9 mg). The mixture was stirred at 25° C. for 16 h and then concentrated in vacuo, dissolved in ethyl acetate with a little methanol to solubilize the material and concentrated in vacuo with silica gel (1 g). Purification by Biotage flash chromatography (AnaLogix, 12 g column, 100% ethyl acetate to 10% methanol/ethyl acetate) afforded (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-4-methylsulfanyl-butyramide (80 mg, 74%) as a white foam: HR-ES-MS m/z calculated for C21H25N4O5ClS [M+H]+ 481.1307, observed 491.1307; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.96-2.19 (m, 2H), 2.09 (s, 3H), 2.29-2.48 (m, 2H), 3.21-3.33 (m, 2H), 3.69-3.81 (m, 1H), 3.86 (dd, J=13.5, 7.5 Hz, 1H), 4.09 (dd, J=13.5, 3.8 Hz, 1H), 4.27 (d, J=18.2 Hz, 1H), 4.56 (d, J=18.2 Hz, 1H), 4.71 (t, J=5.6 Hz, 1H), 4.78-4.86 (m, 1H), 4.81 (s, 1H), 4.94 (d, J=5.4 Hz, 1H), 6.41 (d, J=2.1 Hz, 1H), 7.37 (td, J=7.8, 1.8 Hz, 1H), 7.47 (td, J=7.8, 1.4 Hz, 1H), 7.50-7.55 (m, 2H), 7.66 (dd, J=7.8, 1.4 Hz, 1H), 10.72 (s, 1H).

reactant | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-4-methylsulfanyl-butyramide | 0.23 mmol, 118 mg | ClC1=C(OC2=CC(N(C2)[C@H](C(=O)NC2=NN(C=C2)C[C@H]2OC(OC2)(C)C)CCSC)=O)C=CC=C1 | C24H29ClN4O5S
reactant | p-toluenesulfonic acid monohydrate | 9 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 5 mL | CO | CH4O
product | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-4-methylsulfanyl-butyramide | 80 mg, 74% | ClC1=C(OC2=CC(N(C2)[C@H](C(=O)NC2=NN(C=C2)C[C@H](CO)O)CCSC)=O)C=CC=C1 | C21H25ClN4O5S
